US06770662B2
Sodium methanethiolate (0.32 g) was added to a dimethylformamide (15 ml) solution of 0.9 g of 3-(2,3,4-trimethoxy-6-methylbenzoyl)-2-chloro-4-trifluoromethylpyridine (compound No. 11) at room temperature, followed by stirring for 1 hour. The mixture was poured into water (50 ml), and extraction with ethyl acetate was carried out. The ethyl acetate phase was dried over sodium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (hexane-ethyl acetate) to obtain 0.54 g (yield 58%) of 3-(2,3,4-trimethoxy-6-methylbenzoyl)-2-methylthio-4-trifluoromethylpyridine (compound No. 50; pale yellow oily substance), and its structure was confirmed by nuclear magnetic resonance spectrum.

reactant | Sodium methanethiolate | 0.32 g | C[S-].[Na+]
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | 3-(2,3,4-trimethoxy-6-methylbenzoyl)-2-chloro-4-trifluoromethylpyridine | 0.9 g | COC1=C(C(=O)C=2C(=NC=CC2C(F)(F)F)Cl)C(=CC(=C1OC)OC)C | C17H15ClF3NO4
reactant | water | 50 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2,3,4-trimethoxy-6-methylbenzoyl)-2-methylthio-4-trifluoromethylpyridine | 0.54 g, yield 58% | COC1=C(C(=O)C=2C(=NC=CC2C(F)(F)F)SC)C(=CC(=C1OC)OC)C | C18H18F3NO4S
